### PR TITLE
[Merged by Bors] - feat(Topology): Connecting different notions of locally finite

### PR DESCRIPTION
**Pull request by Raph-DG**
In this PR we connect the notions of local finiteness of an indexed family of sets (as in LocallyFinite) and of a set of sets (as in Function.locallyFinsuppWithin)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 1]
```diff
@@ -63,6 +63,43 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
     exact (h ·)
   rw [EventuallyEq, Filter.Eventually, codiscreteWithin_iff_locallyFiniteComplementWithin, this]
 
+lemma supportLocallyFiniteWithin_top_iff [Zero Y] (f : X → Y) :
+    (∀ z ∈ (⊤ : Set X), ∃ t ∈ 𝓝 z, Set.Finite (t ∩ f.support)) ↔
```
Comment (kckennylau) [inline Mathlib/Topology/LocallyFinsupp.lean]: Why `∀ z ∈ ⊤` instead of just `∀ z`?

Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: Yeah good question lol, I'll get rid of the `z ∈ ⊤` assumption

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 2]
```diff
@@ -63,6 +63,38 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
     exact (h ·)
   rw [EventuallyEq, Filter.Eventually, codiscreteWithin_iff_locallyFiniteComplementWithin, this]
 
+lemma supportLocallyFiniteWithin_top_iff [Zero Y] (f : X → Y) :
+    (∀ z : X, ∃ t ∈ 𝓝 z, Set.Finite (t ∩ f.support)) ↔
+    LocallyFinite (fun s : f.support ↦ ({s.val} : Set X)) := by
```
Comment (jcommelin) [inline Mathlib/Topology/LocallyFinsupp.lean]: Do you think that in applications you will most often rw this from left to right, or from right to left.
My guess would be r2l. In that case I would swap the two sides.

And then `locallyFinite_support_iff` might be a natural name?

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 3]
```diff
@@ -63,6 +63,38 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
...
+    rw [this] at ans
+    convert ans
+    apply Equiv.set_finite_iff
+    exact BijOn.equiv (Subtype.val) (InjOn.bijOn_image injOn_subtype_val)
+  · simp only [singleton_inter_nonempty] at ans ⊢
+    have : {i : f.support | ↑i ∈ t} = t ∩ f.support := by aesop
+    rw [← this]
+    exact Finite.image Subtype.val ans
+
+lemma supportLocallyFiniteWithin_top_inter_compact_finite {W : Set X}
```
Comment (jcommelin) [inline Mathlib/Topology/LocallyFinsupp.lean]: Similar question.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 2 above)
Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: The main applications I had in mind for these lemmas was converting the form of local finiteness used in `Function.locallyFinsuppWithin` into something which uses `LocallyFinite`. For those applications I think you would mainly be rewriting l2r.

Comment (jcommelin) [reply Mathlib/Topology/LocallyFinsupp.lean]: Hmm, I see... The current statement is however a bit hard to name. I appreciate the name you came up with, but I guess it is still hard to guess.

~Also... Do you think `Function.locallyFinsuppWithin` should eventually actually use `LocallyFinite` or some predicate like that?~
If so, that would be another argument for swapping the two sides.

Edit: Never mind, that doesn't make sense.

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 4]
```diff
@@ -63,6 +63,38 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
...
+    have : {x | x ∈ t ∧ ¬f x = 0} =
+            Subtype.val '' {i : { x // ¬f x = 0 } | ↑i ∈ t} := by aesop
+    rw [this] at ans
+    convert ans
+    apply Equiv.set_finite_iff
+    exact BijOn.equiv (Subtype.val) (InjOn.bijOn_image injOn_subtype_val)
+  · simp only [singleton_inter_nonempty] at ans ⊢
+    have : {i : f.support | ↑i ∈ t} = t ∩ f.support := by aesop
+    rw [← this]
+    exact Finite.image Subtype.val ans
```
Comment (jcommelin) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
  dsimp only [LocallyFinite]
  peel with z t ht
  have aux1 : t ∩ f.support = {i : f.support | ↑i ∈ t} := by aesop
  have aux2 : InjOn Subtype.val {i : f.support | ↑i ∈ t} := by aesop
  simp only [singleton_inter_nonempty, aux1, finite_image_iff aux2]
```

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Topology/LocallyFinsupp.lean]: My gut feeling is nevertheless that it's nicer to swap the two sides.

Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: Yeah alright I think you're probably right that if this ever needs to be used again we want a name that's more easily searchable, I'll swap the two sides (for this and the other lemma you mentioned)

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 4 above)
Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: Ahh you learn a new tactic every day, I never knew about peel. Very cool, thanks!

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 3 above)
Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: Sorry when I originally read this I thought this was in reference to another iff which could be swapped, but I think I may have misinterpreted. What did you mean by this?

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 2 above)
Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: As it turns out `locallyFinite_support_iff` already exists (though it doesn't seem to be saying the same thing we're trying to say here). I've just changed it to `locallyFinite_support_iff'`, but I'm not sure I love this name

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 5]
```diff
@@ -63,6 +64,24 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
...
+lemma locallyFinite_support_iff' [Zero Y] (f : X → Y) :
+    LocallyFinite (fun s : f.support ↦ ({s.val} : Set X)) ↔
+    (∀ z : X, ∃ t ∈ 𝓝 z, Set.Finite (t ∩ f.support)) := by
+  dsimp only [LocallyFinite]
+  peel with z t ht
+  have aux1 : t ∩ f.support = {i : f.support | ↑i ∈ t} := by aesop
+  have aux2 : InjOn Subtype.val {i : f.support | ↑i ∈ t} := by aesop
+  simp only [singleton_inter_nonempty, aux1, finite_image_iff aux2]
+
+lemma supportLocallyFiniteWithin_top_inter_compact_finite {W : Set X}
```
Comment (jcommelin) [inline Mathlib/Topology/LocallyFinsupp.lean]: I came up with the following name, which also isn't that great. Maybe we need to actually have a predicate `LocallyFiniteSupport`, and then `hf` could use that, and it would also give a namespace for this name, which could be `LocallyFiniteSupport.inter_support_finite_of_isCompact`.
```suggestion
lemma IsCompact.inter_support_finite_of_locallyFinite {W : Set X}
```

Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: Ahh, yeah maybe that's a good idea, I'll make a predicate `LocallyFiniteSupport`

**Review by jcommelin — COMMENTED** [review]
maintainer merge

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 6]
```diff
@@ -63,6 +64,43 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
     exact (h ·)
   rw [EventuallyEq, Filter.Eventually, codiscreteWithin_iff_locallyFiniteComplementWithin, this]
 
+/--
+A function `f : X → Y` has locally finite support if for every `z : X`, there is a
+neighbourhood `t` around `z` such that `t ∩ f.support` is finite.
+-/
+class LocallyFiniteSupport [Zero Y] (f : X → Y) : Prop where
+  support_locally_finite' : ∀ z : X, ∃ t ∈ 𝓝 z, Set.Finite (t ∩ f.support)
```
Comment (chrisflav) [inline Mathlib/Topology/LocallyFinsupp.lean]: Should this be spelled using [Filter.Eventually](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Defs.html#Filter.Eventually)?

Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: Thanks for the feedback! I'm not that used to using Filter.Eventually, and I've been thinking about how to rephrase this using it but I can't think of how to do it. One thing to note is that these lemmas are mainly to interface between Function.locallyFinsuppWithin.supportLocallyFiniteWithinDomain' and LocallyFinite, the first of which uses the spelling given here.

Comment (urkud) [reply Mathlib/Topology/LocallyFinsupp.lean]: Why is it a typeclass, not a predicate? What instances do you expect?

Comment (Raph-DG) [reply Mathlib/Topology/LocallyFinsupp.lean]: I have no principled reason for making this a typeclass, I'm happy to change it over if you prefer it that way. I only made it a typeclass because it felt convenient when I was writing the associated lemmas

Comment (chrisflav) [reply Mathlib/Topology/LocallyFinsupp.lean]: This probably should not be a typeclass in the same way as `Continuous`, `Differentiable` etc. are not typeclasses. Your instinct probably comes from the design pattern in AG, where we have `Prop` typeclasses on *morphisms* of schemes. These are much more structural though (because of standard constructions like composition, pullback, restriction to opens etc.), so their use can be justified (although calling this "abusing typeclass search to do proofs" is also not entirely unjustified).

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 7]
```diff
@@ -70,6 +71,35 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
     exact (h ·)
   rw [EventuallyEq, Filter.Eventually, codiscreteWithin_iff_locallyFiniteComplementWithin, this]
 
+/--
+A function `f : X → Y` has locally finite support if for every `z : X`, there is a
+neighbourhood `t` around `z` such that `t ∩ f.support` is finite.
+-/
+def LocallyFiniteSupport [Zero Y] (f : X → Y) : Prop :=
+    ∀ z : X, ∃ t ∈ 𝓝 z, Set.Finite (t ∩ f.support)
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
def LocallyFiniteSupport [Zero Y] (f : X → Y) : Prop :=
  ∀ z : X, ∃ t ∈ 𝓝 z, Set.Finite (t ∩ f.support)
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 8]
```diff
@@ -70,6 +71,35 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
...
+
+lemma LocallyFiniteSupport.iff_support_locallyFinite [Zero Y] (f : X → Y) :
+    LocallyFinite (fun s : f.support ↦ ({s.val} : Set X)) ↔
+    LocallyFiniteSupport f := by
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
    LocallyFinite (fun s : f.support ↦ ({s.val} : Set X)) ↔ LocallyFiniteSupport f := by
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 9]
```diff
@@ -70,6 +71,35 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
...
+  dsimp only [LocallyFinite]
+  peel with z t ht
+  have aux1 : t ∩ f.support = {i : f.support | ↑i ∈ t} := by aesop
+  have aux2 : InjOn Subtype.val {i : f.support | ↑i ∈ t} := by aesop
+  simp only [singleton_inter_nonempty, aux1, finite_image_iff aux2]
+
+lemma LocallyFiniteSupport.support_locallyFinite [Zero Y] (f : X → Y) (h : LocallyFiniteSupport f) :
+    LocallyFinite (fun s : f.support ↦ ({s.val} : Set X)) :=
+    (LocallyFiniteSupport.iff_support_locallyFinite f).mpr h
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
  (LocallyFiniteSupport.iff_support_locallyFinite f).mpr h
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 10]
```diff
@@ -70,6 +71,34 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
...
   rw [EventuallyEq, Filter.Eventually, codiscreteWithin_iff_locallyFiniteComplementWithin, this]
 
+/--
+A function `f : X → Y` has locally finite support if for every `z : X`, there is a
+neighbourhood `t` around `z` such that `t ∩ f.support` is finite.
+-/
+def LocallyFiniteSupport [Zero Y] (f : X → Y) : Prop :=
+  ∀ z : X, ∃ t ∈ 𝓝 z, Set.Finite (t ∩ f.support)
+
+lemma LocallyFiniteSupport.iff_support_locallyFinite [Zero Y] (f : X → Y) :
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
lemma LocallyFiniteSupport.iff_locallyFinite_support [Zero Y] (f : X → Y) :
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 11]
```diff
@@ -70,6 +71,34 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
...
+    LocallyFinite (fun s : f.support ↦ ({s.val} : Set X)) ↔ LocallyFiniteSupport f := by
+  dsimp only [LocallyFinite]
+  peel with z t ht
+  have aux1 : t ∩ f.support = {i : f.support | ↑i ∈ t} := by aesop
+  have aux2 : InjOn Subtype.val {i : f.support | ↑i ∈ t} := by aesop
+  simp only [singleton_inter_nonempty, aux1, finite_image_iff aux2]
+
+lemma LocallyFiniteSupport.support_locallyFinite [Zero Y] (f : X → Y) (h : LocallyFiniteSupport f) :
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
lemma LocallyFiniteSupport.locallyFinite_support [Zero Y] (f : X → Y) (h : LocallyFiniteSupport f) :
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 12]
```diff
@@ -70,6 +71,34 @@ theorem supportDiscreteWithin_iff_locallyFiniteWithin [T1Space X] [Zero Y] {f :
...
+    LocallyFinite (fun s : f.support ↦ ({s.val} : Set X)) :=
+  (LocallyFiniteSupport.iff_support_locallyFinite f).mpr h
+
+lemma LocallyFiniteSupport.inter_support_finite_of_isCompact {W : Set X}
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
lemma LocallyFiniteSupport.finite_inter_support_of_isCompact {W : Set X}
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+
